US09233098B2
3. Preparation of ethyl 2-(5-fluoro-1H-indazol-3-yl)acetate
2-(5-Fluoro-1H-indazol-3-yl)acetic acid (1.12 g, 5.77 mmol) was dissolved in anhydrous ethanol (50 mL) concentrated sulfuric acid (1.5 mL), and heated under reflux for 16 hours. After concentrated under reduce pressure to remove most of ethanol, water (20 mL) was added, and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate, and concentrated to obtain the product 0.48 g, at a yield of 37.4%.

reactant | 2-(5-Fluoro-1H-indazol-3-yl)acetic acid | 5.77 mmol, 1.12 g | FC=1C=C2C(=NNC2=CC1)CC(=O)O | C9H7FN2O2
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 2-(5-fluoro-1H-indazol-3-yl)acetate | 0.48 g, yield of 37.4% | FC=1C=C2C(=NNC2=CC1)CC(=O)OCC | C11H11FN2O2
